US08372976B2
SYNTHESIS OF 3-(1-PHENYL-ETHYL)-5-QUINOLIN-5-YL-3H-OXAZOLO[4,5-B]PYRAZIN-2-ONE
3-(1-Phenyl-ethyl)-5-quinolin-5-yl-3H-oxazole[4,5-b]pyrazin-2-one. 3-(1-Phenyl-ethylamino)-5-quinolin-5-yl-1H-pyrazin-2-one (50 mg, 0.15 mmol), 1,1′-carbonyldiimidazole (470 mg, 1.5 mmol), and dioxane (5 mL) were heated together in a pressure tube to 150° C. for 20 hours. The reaction was filtered through celite, rinsed with EtOAc, and then concentrated. The residue was purified via Biotage silica gel chromatography (0-100% ethyl acetate in hexanes). The product factions were concentrated and then triturated with ether to give a white solid, (28 mg, 52% yield). 1H NMR (400 MHz, CD3OD) δ 9.73 (dd, J=4.1, 1.8, 1 H), 9.11 (s, 1 H), 9.09 (d, J=8.2, 1 H), 8.93 (d, J=8.6, 1 H), 8.66 (m, 1 H), 8.58 (dd, J=7.2, 1.4, 1 H), 8.31 (m, 2 H), 8.26 (dd, J=8.6, 4.3, 1 H), 8.17 (m, 2 H), 6.43 (q, J=7.0, 1 H), 2.71 (d, J=7.0, 3 H); MS (ESI) m/z 369.4 [M+1]+.

reactant | 3-(1-Phenyl-ethylamino)-5-quinolin-5-yl-1H-pyrazin-2-one | 0.15 mmol, 50 mg | C1(=CC=CC=C1)C(C)NC=1C(NC=C(N1)C1=C2C=CC=NC2=CC=C1)=O | C21H18N4O
reactant | 1,1′-carbonyldiimidazole | 1.5 mmol, 470 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 3-(1-PHENYL-ETHYL)-5-QUINOLIN-5-YL-3H-OXAZOLO[4,5-B]PYRAZIN-2-ONE | 52% yield | C1(=CC=CC=C1)C(C)N1C(OC=2C1=NC(=CN2)C2=C1C=CC=NC1=CC=C2)=O | C22H16N4O2
